US08084490B2
N-(2,3-Dihydro-benzo[1,4]dioxin-2-ylmethyl)-N′,N′ dimethylsulfamide (Compound #6)
Racemic 2,3-dihydro-1,4-benzdioxin-2-ylmethylamine (8.25 g, 5.0 mmol) and triethylamine (1.52 g, 15 mmol) were combined in DMF (10 mL) and cooled in an ice bath as dimethylsulfamoyl chloride (1.44 g, 10 mmol) was added. The reaction mixture was then stirred for 3 hr with continued cooling. The reaction mixture was partitioned between ethyl acetate and water, and the ethyl acetate solution was washed with brine, dried (MgSO4) and evaporated in vacuo to yield an oil. The oil was purified using flash column chromatography (ethyl acetate:Heptane—1:1) to yield a white solid, which was recrystallized (ethyl acetate/Hexane) to yield the title compound as a white floccular solid.

reactant | Racemic 2,3-dihydro-1,4-benzdioxin-2-ylmethylamine | 5.0 mmol, 8.25 g | O1C(COC2=C1C=CC=C2)CN | C9H11NO2
reactant | triethylamine | 15 mmol, 1.52 g | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfamoyl chloride | 10 mmol, 1.44 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(2,3-Dihydro-benzo[1,4]dioxin-2-ylmethyl)-N′,N′ dimethylsulfamide | O1C(COC2=C1C=CC=C2)CNS(=O)(=O)N(C)C | C11H16N2O4S
